US06610707B1
tert-Butyl (Z)-(2S)-2-amino[(2-[4-(hydroxymethyl)phenoxy]acetyloxy)imino]methyl-1-piperidinecarboxylate (see Preparation 12] (2.94 g) was dissolved in pyridine (30 ml) and heated under reflux for 18 hours. The reaction mixture was cooled and the solvent removed under reduced pressure. The residue was partitioned between ethyl acetate and water, the organic layer was separated, dried over magnesium sulphate and the solvent removed under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 50:50 changing to 0:100 (in 10% increments), by volume, hexane:ethyl acetate to afford tert-butyl (2S)-2-(5-[4-(hydroxymethyl)phenoxymethyl]-1,2,4-oxadiazol-3-yl)-1-piperidinecarboxylate (1.06 g).

reactant | tert-Butyl (Z)-(2S)-2-amino[(2-[4-(hydroxymethyl)phenoxy]acetyloxy)imino]methyl-1-piperidinecarboxylate | N[C@@]1(N(CCCC1)C(=O)OC(C)(C)C)\C=N/OC(COC1=CC=C(C=C1)CO)=O | C20H29N3O6
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | tert-butyl (2S)-2-(5-[4-(hydroxymethyl)phenoxymethyl]-1,2,4-oxadiazol-3-yl)-1-piperidinecarboxylate | 1.06 g | OCC1=CC=C(OCC2=NC(=NO2)[C@H]2N(CCCC2)C(=O)OC(C)(C)C)C=C1 | C20H27N3O5
